US07973051B2
iii) 5-Ethynyl-4-phenyl-thiazol-2-ylamine
To the above prepared 4-phenyl-5-trimethylsilanylethynyl-thiazol-2-ylamine (1.070 g, 3.927 mmol), dissolved in 14 mL of MeOH, was added K2CO3 (0.814 g, 1.5 eq.)) and the mixture was stirred for 2 h at ambient temperature. Pouring onto crashed ice/NH4Cl, twofold extraction with ethyl acetate, washing with water and brine, drying over sodium sulfate, and evaporation to dryness, followed by flash chromatography (SiO2, hexane/ethyl acetate=7/3), gave 0.667 g of the title compound as dark brown viscous oil.

reactant | 4-phenyl-5-trimethylsilanylethynyl-thiazol-2-ylamine | 3.927 mmol, 1.070 g | C1(=CC=CC=C1)C=1N=C(SC1C#C[Si](C)(C)C)N | C14H16N2SSi
reactant | K2CO3 | 0.814 g, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 14 mL | CO | CH4O
product | 5-Ethynyl-4-phenyl-thiazol-2-ylamine | 0.667 g | C(#C)C1=C(N=C(S1)N)C1=CC=CC=C1 | C11H8N2S
